US07772271B2
1,1-Dioxo-tetrahydrothiopyran-4-ol (1.0 g, 6.6 mmol), pyridine (10 mL), and tosyl chloride (1.6 g, 8.4 mmol) were combined and stirred at room temperature overnight. The reaction mixture was concentrated, diluted in EtOAc and washed with aqueous HCl and brine. The organic layer was dried, concentrated and triturated with hexane to yield O-tosyl-1,1-dioxo-tetrahydrothiopyran-4-ol (1.073 g, 53%) as a white solid.

reactant | 1,1-Dioxo-tetrahydrothiopyran-4-ol | 6.6 mmol, 1.0 g | O=S1(CCC(CC1)O)=O | C5H10O3S
reactant | tosyl chloride | 8.4 mmol, 1.6 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | O-tosyl-1,1-dioxo-tetrahydrothiopyran-4-ol | 1.073 g, 53% | S(=O)(=O)(C1=CC=C(C)C=C1)OC1CCS(CC1)(=O)=O | C12H16O5S2
